US05173484
b) 3-Ethylaminomethyl-3-hydroxypiperidine
10 g (46.2 mmol) of methyl 3-ethylaminomethyl-3-hydroxypiperidine-1-carboxylate are heated under reflux overnight with 28.5 g of Ba(OH)2. 8H2O in 280 ml of water. The product is filtered off from BaCO3 with suction and concentrated. The residue is boiled five times using 120 ml of dioxane each time, and the dioxane solution is concentrated and distilled.

reactant | methyl 3-ethylaminomethyl-3-hydroxypiperidine-1-carboxylate | 46.2 mmol, 10 g | C(C)NCC1(CN(CCC1)C(=O)OC)O | C10H20N2O3
solvent | water | 280 ml | O | H2O
product | 3-Ethylaminomethyl-3-hydroxypiperidine | C(C)NCC1(CNCCC1)O | C8H18N2O
